US05767131
3-(4-Ethoxycarbonyl-4-phenylpiperidin-1-yl)propylamine
A mixture of 4-ethoxycarbonyl-4-phenylpiperidine (30.5 g, 0.131 mol), 3-bromopropylamine hydrobromide (42.93 g, 0.196 mol), potassium carbonate (36.14 g, 0.241 mole), and KI (10.8 g, 0.065 mol) in 1,4-dioxane (500 mL) was stirred and refluxed for 24 hours. Dioxane was evaporated at reduced pressure, the residue was treated with ice-cold 6N NaOH (400 mL) and extracted with CH2Cl2 (4×120 mL). Solvent was evaporated from the combined dried (K2CO3) CH2Cl2 extracts and the residue was purified by column chromatography on silica gel using CHCl3 /MeOH/2M NH3 in MeOH (20:2:1) as the eluent to afford the product as a viscous oil (24.2 g, 83.3%).

reactant | 4-ethoxycarbonyl-4-phenylpiperidine | 0.131 mol, 30.5 g | C(C)OC(=O)C1(CCNCC1)C1=CC=CC=C1 | C14H19NO2
reactant | 3-bromopropylamine hydrobromide | 0.196 mol, 42.93 g | Br.BrCCCN
reactant | potassium carbonate | 0.241 mole, 36.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | 3-(4-Ethoxycarbonyl-4-phenylpiperidin-1-yl)propylamine | 24.2 g, 83.3% | C(C)OC(=O)C1(CCN(CC1)CCCN)C1=CC=CC=C1 | C17H26N2O2
